US04143139
3,5-Dibenzyloxyacetophenone
Over a period of 1.5 hours, methyl lithium (531 ml. of a 2 molar solution, 1.06 M) is added under a nitrogen atmosphere to a rapidly stirring solution of 3,5-dibenzyloxybenzoic acid (175 g., 0.532 M) in ether (250 ml.) - tetrahydrofuran (1400 ml.) maintained at 15°-20° C. After stirring an additional 0.75 hour at 10°-15° C., water (600 ml.) is slowly added keeping the reaction temperature below 20° C. The aqueous layer is separated and extracted with ether (3 × 250 ml.). The organic phases are combined, washed with saturated sodium chloride solution (4 × 300 ml.), dried over sodium sulfate, and concentrated under vacuum to give an oil which slowly crystallized from isopropylether. The crude product is recrystallized from ether-hexane to yield 104.7 g. (59%) of product; m.p. 59°-61° C.

reactant | methyl lithium | C[Li]
reactant | 3,5-dibenzyloxybenzoic acid | 0.532 M, 175 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C21H18O4
reactant | tetrahydrofuran | 1400 ml | O1CCCC1 | C4H8O
reactant | water | 600 ml | O | H2O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3,5-Dibenzyloxyacetophenone | CC(=O)C1=CC(=CC(=C1)OCC2=CC=CC=C2)OCC3=CC=CC=C3 | C22H20O3
